US07595405B2
A mixture of N-(1-Furan-2-yl-ethyl)-3-iodo-5-tetrazol-1-yl-benzamide (60 mg, 0.146 mmol), 2-fluoro-4-methyl-phenylboronic acid (27.1 mg, 0.176 mmol), Cs2CO3 (0.35 mL, 0.5 N, 0.176 mmol) and Pd(Ph3P)4 (8.5 mg, 0.00735 mmol) in toluene (1.5 mL) and THF (1.5 mL) was stirred under microwave heating for 30 minutes at 130° C. After reaction mixture was cooled down, the solvent was removed under vacuum and the residue was purified by column chromatography (hexane/EtOAc=1:2) to afford 2′-Fluoro-4′-methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid (1-furan-2-yl-ethyl)-amide as a white solid (57 mg, 98%). MS (M+H)=392.

reactant | N-(1-Furan-2-yl-ethyl)-3-iodo-5-tetrazol-1-yl-benzamide | 0.146 mmol, 60 mg | O1C(=CC=C1)C(C)NC(C1=CC(=CC(=C1)N1N=NN=C1)I)=O | C14H12IN5O2
reactant | 2-fluoro-4-methyl-phenylboronic acid | 0.176 mmol, 27.1 mg | FC1=C(C=CC(=C1)C)B(O)O | C7H8BFO2
reactant | Cs2CO3 | 0.176 mmol, 0.5 N, 0.35 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
catalyst | Pd(Ph3P)4 | 0.00735 mmol, 8.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-4′-methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid (1-furan-2-yl-ethyl)-amide | 57 mg, 98% | O1C(=CC=C1)C(C)NC(=O)C=1C=C(C=C(C1)N1N=NN=C1)C1=C(C=C(C=C1)C)F | C21H18FN5O2
